************************************************************************
* auCdl Netlist:
* 
* Library Name:  2024_project_circuit
* Top Cell Name: nand16_select_repeater_1st
* View Name:     schematic
* Netlisted on:  Nov 29 01:31:12 2024
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA



************************************************************************
* Library Name: 2024_project_circuit
* Cell Name:    nand4
* View Name:    schematic
************************************************************************

.SUBCKT nand4 in_A in_B in_C in_D out vdd vss
*.PININFO in_A:I in_B:I in_C:I in_D:I out:O vdd:B vss:B
MM7 net56 in_D vss vss nmos W=nw L=45n
MM2 net54 in_C net56 vss nmos W=nw L=45n
MM1 net55 in_B net54 vss nmos W=nw L=45n
MM0 out in_A net55 vss nmos W=nw L=45n
MM6 out in_D vdd vdd pmos W=pw L=45n
MM5 out in_C vdd vdd pmos W=pw L=45n
MM4 out in_B vdd vdd pmos W=pw L=45n
MM3 out in_A vdd vdd pmos W=pw L=45n
.ENDS

************************************************************************
* Library Name: Test1
* Cell Name:    inverter
* View Name:    schematic
************************************************************************

.SUBCKT inverter in out vdd vss
*.PININFO in:I out:O vdd:B vss:B
MM0 out in vss vss nmos W=nw L=45n
MM1 out in vdd vdd pmos W=pw L=45n
.ENDS

************************************************************************
* Library Name: 2024_project_circuit
* Cell Name:    nand2
* View Name:    schematic
************************************************************************

.SUBCKT nand2 in_A in_B out vdd vss
*.PININFO in_A:I in_B:I out:O vdd:B vss:B
MM1 net7 in_B vss vss nmos W=nw L=45n
MM0 out in_A net7 vss nmos W=nw L=45n
MM3 out in_B vdd vdd pmos W=pw L=45n
MM2 out in_A vdd vdd pmos W=pw L=45n
.ENDS

************************************************************************
* Library Name: 2024_project_circuit
* Cell Name:    nor2
* View Name:    schematic
************************************************************************

.SUBCKT nor2 in_A in_B out vdd vss
*.PININFO in_A:I in_B:I out:O vdd:B vss:B
MM1 out in_B vss vss nmos W=nw L=45n
MM0 out in_A vss vss nmos W=nw L=45n
MM3 out in_A net4 vdd pmos W=pw L=45n
MM2 net4 in_B vdd vdd pmos W=pw L=45n
.ENDS

************************************************************************
* Library Name: 2024_project_circuit
* Cell Name:    nand16_select_repeater_1st
* View Name:    schematic
************************************************************************

*.PININFO in1:I out:O vdd:B vss:B
XI10 temp9 vdd vdd vdd out vdd vss / nand4 pw=1.837e-05 nw=4.741e-05
XI8 temp7 vdd vdd vdd temp8 vdd vss / nand4 pw=8.790000000000001e-06 
+ nw=2.269e-05
XI0 in1 vdd vdd vdd temp1 vdd vss / nand4 pw=1.86e-06 nw=4.8e-06
XI36 net031 net035 vdd vss / inverter pw=4.21e-06 nw=2.71e-06
XI35 net035 net042 vdd vss / inverter pw=4.21e-06 nw=2.71e-06
XI34 net033 net015 vdd vss / inverter pw=4.21e-06 nw=2.71e-06
XI33 net014 net033 vdd vss / inverter pw=4.21e-06 nw=2.71e-06
XI28 net039 net021 vdd vss / inverter pw=4.21e-06 nw=2.71e-06
XI27 net020 net039 vdd vss / inverter pw=4.21e-06 nw=2.71e-06
XI26 net040 net019 vdd vss / inverter pw=4.21e-06 nw=2.71e-06
XI25 net018 net040 vdd vss / inverter pw=4.21e-06 nw=2.71e-06
XI4 temp3 temp4 vdd vss / inverter pw=2.262e-05 nw=1.46e-05
XI1 temp1 temp2 vdd vss / inverter pw=4.81e-06 nw=3.1e-06
XI2 temp8 vdd temp9 vdd vss / nand2 pw=1.602e-05 nw=2.067e-05
XI7 net036 vdd temp7 vdd vss / nand2 pw=7.669999999999999e-06 nw=9.89e-06
XI5 temp4 vdd temp5 vdd vss / nand2 pw=4.123e-05 nw=5.32e-05
XI3 temp2 vdd temp3 vdd vss / nand2 pw=8.760000000000001e-06 nw=1.13e-05
XI14 temp5 vss net208 vdd vss / nor2 pw=8.410000000000001e-06 nw=2.71e-06
XI15 temp5 vss net207 vdd vss / nor2 pw=8.410000000000001e-06 nw=2.71e-06
XI16 temp5 vss net205 vdd vss / nor2 pw=8.410000000000001e-06 nw=2.71e-06
XI9 temp5 vss net212 vdd vss / nor2 pw=8.410000000000001e-06 nw=2.71e-06
XI11 temp5 vss net211 vdd vss / nor2 pw=8.410000000000001e-06 nw=2.71e-06
XI12 temp5 vss net210 vdd vss / nor2 pw=8.410000000000001e-06 nw=2.71e-06
XI13 temp5 vss net209 vdd vss / nor2 pw=8.410000000000001e-06 nw=2.71e-06
XI24 temp5 vss net198 vdd vss / nor2 pw=8.410000000000001e-06 nw=2.71e-06
XI23 temp5 vss net200 vdd vss / nor2 pw=8.410000000000001e-06 nw=2.71e-06
XI22 temp5 vss net199 vdd vss / nor2 pw=8.410000000000001e-06 nw=2.71e-06
XI21 temp5 vss net201 vdd vss / nor2 pw=8.410000000000001e-06 nw=2.71e-06
XI20 temp5 vss net202 vdd vss / nor2 pw=8.410000000000001e-06 nw=2.71e-06
XI19 temp5 vss net203 vdd vss / nor2 pw=8.410000000000001e-06 nw=2.71e-06
XI18 temp5 vss net204 vdd vss / nor2 pw=8.410000000000001e-06 nw=2.71e-06
XI17 temp5 vss net206 vdd vss / nor2 pw=8.410000000000001e-06 nw=2.71e-06
XI6 temp5 vss net017 vdd vss / nor2 pw=8.410000000000001e-06 nw=2.71e-06
CC28 net042 vss 4f $[CP]
CC27 net036 vss 4f $[CP]
CC26 net031 vss 4f $[CP]
CC25 net015 vss 4f $[CP]
CC21 net014 vss 4f $[CP]
CC20 net021 vss 4f $[CP]
CC19 net020 vss 4f $[CP]
CC18 net019 vss 4f $[CP]
CC17 net018 vss 4f $[CP]
CC16 net017 vss 4f $[CP]
CC0 out vss 100f $[CP]
CC15 net198 vss 22.9f $[CP]
CC14 net199 vss 22.9f $[CP]
CC13 net200 vss 22.9f $[CP]
CC12 net201 vss 22.9f $[CP]
CC11 net202 vss 22.9f $[CP]
CC10 net203 vss 22.9f $[CP]
CC9 net204 vss 22.9f $[CP]
CC8 net205 vss 22.9f $[CP]
CC7 net206 vss 22.9f $[CP]
CC6 net207 vss 22.9f $[CP]
CC5 net208 vss 22.9f $[CP]
CC4 net209 vss 22.9f $[CP]
CC3 net210 vss 22.9f $[CP]
CC2 net211 vss 22.9f $[CP]
CC1 net212 vss 22.9f $[CP]
RR5 net042 net036 4K $[RP]
RR4 net015 net031 4K $[RP]
RR2 net021 net014 4K $[RP]
RR1 net019 net020 4K $[RP]
RR0 net017 net018 4K $[RP]
